US07741327B2
A stirred mixture of benzooxazol-4-ol (0.388 g, 2.87 mmol), ethyl-2-butynoate (1.93 g, 17.2 mmol) a catalytic amount of 4-dimethylaminopyridine and potassium carbonate (0.595 g, 4.30 mmol) in tetrahydrofuran (20 mL) was placed in a sealed tube and heated at 80° C. for 2 h. The reaction mixture was filtered and the filtrate was collected and concentrated in vacuo. The resulting residue was purified by ISCO column chromatography (Silicycle 40 g, 2% to 15% ethyl acetate/hexanes) which afforded (E)-3-(benzooxazol-4-yloxy)-but-2-enoic acid ethyl ester (710 mg, 100%) as a light yellow solid.

reactant | benzooxazol-4-ol | 2.87 mmol, 0.388 g | O1C=NC=2C1=CC=CC2O | C7H5NO2
reactant | ethyl-2-butynoate | 17.2 mmol, 1.93 g | C(C)OC(C#CC)=O | C6H8O2
reactant | potassium carbonate | 4.30 mmol, 0.595 g | C([O-])([O-])=O.[K+].[K+]
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-3-(benzooxazol-4-yloxy)-but-2-enoic acid ethyl ester | 710 mg, 100% | C(C)OC(\C=C(/C)\OC1=CC=CC2=C1N=CO2)=O | C13H13NO4
